US04182730
4-tert-Butyl-α-methyldihydrocinnamaldehyde
4-tert-Butyl-β-chloro-α-methylcinnamaldehyde (71 g), 1.0 g of 5% Pd/C, 40 g of 30% sodium hydroxide solution, 40 g of water and 32 g of methanol were placed in a Parr apparatus and hydrogenated at 20-50 psi until the theoretical amount of hydrogen had been absorbed (about 31/2 hrs.). The solution was filtered and the aqueous phase extracted with 100 g of ethylene dichloride. The solution was distilled to yield 53.9 g (76%) of the desired product, bp 100° (1.0 mm).

reactant | 4-tert-Butyl-β-chloro-α-methylcinnamaldehyde | 71 g | C(C)(C)(C)C1=CC=C(C(=C(C=O)C)Cl)C=C1 | C14H17ClO
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | water | 40 g | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 1.0 g | [Pd] | Pd
solvent | methanol | 32 g | CO | CH4O
product | 4-tert-Butyl-α-methyldihydrocinnamaldehyde | 53.9 g, 76% | C(C)(C)(C)C1=CC=C(CC(C=O)C)C=C1 | C14H20O
